Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[C:10]([H:11])([H:12])[H:13],3.50351814089
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2],6.30651189287
[C:1]=[C:2]([H:3])[C@:5]([O:4])([H:6])[C:7](=[O:8])[H:9]>>[C:1][C@@:2]1([H:3])[O:4][C@:5]1([H:6])[C:7](=[O:8])[H:9],0.0958607436496
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]=[O:10].[H:11]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11],-3.95903237527
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][H:9],7.44399847525
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:4][H:5],2.38520543465
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[O:9][H:10],0.53845512847
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],0.5971151033600001
[H:1][C:2].[O:3]=[C:4]=[C:5][C:6]([H:7])[O:8][H:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9],-2.09242202183
[H:1]/[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12][H:13],4.91092871314
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:10][C:11]([H:12])([H:13])[H:14].[H:9],2.13642042376
[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.4843930828300005
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:5],2.00727615427
[H:1][C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],4.93498356985
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4],5.36267916
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9],4.8994137680900005
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-0.7186542806899999
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.80611404865
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.43951977564
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])=[O:6]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-1.3252399227399998
[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:13][H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],-1.80919021859
[H:12].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],-4.56119308618
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[O:1],8.14515369
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10][H:11],2.1863494248900004
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],0.7605753424989999
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:6][O:7][H:8].[H:1][C:2]=[C:3]([H:4])[H:5],0.1730398563099999
[C:9]([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-6.926866544219999
[C:5](=[O:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5](=[O:6])[C:7]([H:8])[H:9],1.28693809721
[H:1][O:2][C:3][C:4]1[C:5]2[O:6][C@:7]12[H:8].[H:9]>>[H:1][O:2]/[C:3]=[C:4]1/[C:5][O:6][C:7]1([H:8])[H:9],-3.93782704317
